*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/2.70e-03[uF]/250[V]
* Murata P/N :GCM21A5C2E272JX01
* Property : C = 2.70e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E272JX01 Port1 Port2
C01 Port1 N01 2.70e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 3.29e-10
R03 N02 N03 1.65e-02
C04 N03 N04 5.51e-08
R04 N03 N04 1.50e+02
L05 N04 N05 5.80e-11
R05 N04 N05 3.22e-01
L06 N05 N06 4.89e-11
R06 N05 N06 1.65e-02
C07 N06 N07 1.95e-08
L07 N06 N07 1.53e-11
R07 N06 N07 2.05e-01
C08 N07 N08 3.71e-09
L08 N07 N08 3.27e-11
R08 N07 N08 4.38e-01
C09 N08 N09 3.08e-09
L09 N08 N09 1.18e-11
R09 N08 N09 1.34e-01
C10 N09 N10 2.74e-11
L10 N09 N10 1.96e-11
R10 N09 N10 1.24e+01
C11 N10 N11 1.41e-11
L11 N10 N11 3.17e-11
R11 N10 N11 9.88e+00
C12 N11 Port2 5.00e-12
L12 N11 Port2 6.40e-11
R12 N11 Port2 3.06e+01
.ENDS GCM21A5C2E272JX01
